US07888364B2
N-(4-Chloro-3-iodophenyl)-6-(trifluoromethyl)-2-methylpyridine-3-carboxamide (150 mg, 0.34 mmol) was used in Procedure B with 4-methyl-2-pyridylzinc bromide (1.7 mL of a 0.5 M in THF). Purified by silica gel chromatography (5-75% Ethyl acetate/Hexanes) to yield N-(4-chloro-3-(5-methylpyridin-2-yl)phenyl)-6-(trifluoromethyl)-2-methylpyridine-3-carboxamide as a white solid: TLC Rf=0.23 (35% ethyl acetate/hexanes); 1H NMR (CDCl3, 400 MHz) δ 10.62 (bs, 1H), 8.12 (dd, 1H), 7.89 (d, 1H), 7.58 (d, 1H), 7.47 (m, 3H), 7.18 (d, 1H), 6.89 (d, 1H), 2.62 (s, 3H), 2.38 (s, 3H); MS (Q1) 406.3 (M)+.

reactant | N-(4-Chloro-3-iodophenyl)-6-(trifluoromethyl)-2-methylpyridine-3-carboxamide | 0.34 mmol, 150 mg | ClC1=C(C=C(C=C1)NC(=O)C=1C(=NC(=CC1)C(F)(F)F)C)I | C14H9ClF3IN2O
reactant | 4-methyl-2-pyridylzinc bromide | [Br-].CC1=CC(=NC=C1)[Zn+]
reactant | THF | C1CCOC1 | C4H8O
product | N-(4-chloro-3-(5-methylpyridin-2-yl)phenyl)-6-(trifluoromethyl)-2-methylpyridine-3-carboxamide | ClC1=C(C=C(C=C1)NC(=O)C=1C(=NC(=CC1)C(F)(F)F)C)C1=NC=C(C=C1)C | C20H15ClF3N3O
